US05262310
The improvement in the decomposition rate of chitin by chitin decomposition enzyme was studied by means of exposing chitin in the buffer containing urea, etc. After chitin (manufactured by Wako Junyaku Kogyo) was added so as to become 2(W/V)% to 100 mM phosphate buffer (pH 0.6) in which 20(W/V)% glycerol, 0.5(W/V)% SDS (sodium dodecyl sulfate), 1(W/V)% Tween 20, 1(W/V)% Pururonic L44 (manufactured by Asahi Denka), 1(W/V)% Anhitool 24B (manufactured by Kao), Triton X-100 or 0.2M urea are dissolved, of which solution was boiled for one hour at 100° C., lysozyme (manufactured by Wako Junyaku Kogyo, No. 122-02673) was added so as to become 2(W/V)%. The reaction was performed at 40° C. with stirring. The analysis on the reaction product after 41 hours from the start of reaction was performed in the same way as Embodiment 1. The ratio of total volume of monomer, dimer and trimer of N-acetylglucosamine produced by decomposition against the volume of chitin added is shown in FIG. 8 as conversion ratio.

reactant | urea | NC(=O)N | CH4N2O
reactant | phosphate | 100 mM, pH 0.6 | P(=O)([O-])([O-])[O-]
reactant | SDS | S(=O)(=O)(OCCCCCCCCCCCC)[O-].[Na+]
reactant | X-100 | CCC(CC)COC(C1=CC=CC=C1)(C2=CC=CC=C2)C(=O)N(C)CC[NH+](C)C.[Cl-]
reactant | urea | 0.2M | NC(=O)N | CH4N2O
reactant | glycerol | OCC(O)CO | C3H8O3
product | N-acetylglucosamine | C(C)(=O)N[C@H]1C(O)O[C@@H]([C@H]([C@@H]1O)O)CO | C8H15NO6
